data/oMe_Silver.jsonl
{"reaction_id": "NR-201_1-C(F)(F)F_2-C","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(C(F)(F)F))=CC(=O)C=C(C(C))","CS(=O)(=O)O"],"products_smiles": ["C(C)C1=CC(=O)CC1(C(F)(F)F)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C(F)(F)F))=CC(=[OH+])C=CC(C)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(C(F)(F)F))C(C))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(C))C(C(F)(F)F))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)C1=CC(=O)CC1(C(C(F)(F)F))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
{"reaction_id": "NR-126_1-c1ccc(C#N)cc1","name": "Kornblum Oxidation","level": "medium","reactants_smiles": ["C(c1ccc(C#N)cc1)Cl","C[S+]([O-])C"],"products_smiles": ["C(c1ccc(C#N)cc1)=O"],"conditions": "CCN(CC)CC","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(C#N)cc1)O[S+](C)C","rationale": "The sulfoxide oxygen is nucleophilic due to its lone pairs and polarization; it attacks the electrophilic carbon bearing the good leaving group Cl, favored by the polar aprotic amine solvent that stabilizes the transition state."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C#N)cc1)O[S+](C)[CH2-]","rationale": "The basic environment provided by the tertiary amine abstracts the acidic α-proton adjacent to the positively charged sulfur, driven by stabilization of the resulting carbanion through the adjacent sulfonium group."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(C#N)cc1)=O","rationale": "The carbanion collapses, expelling the neutral dimethyl sulfide leaving group; this elimination is favored by the stability of the carbonyl product and the volatility of the leaving group."}],"description": "In the Kornblum oxidation, dimethyl sulfoxide acts as a nucleophile toward an alkyl halide, forming an alkoxysulfonium intermediate. Under basic conditions, deprotonation facilitates elimination of a sulfenic species, yielding the carbonyl product via a mild, non-aqueous oxidation pathway."}
{"reaction_id": "NR-145_1-c1ccccc1_2-CC_3-CC","name": "Michaelis-Arbuzov Reaction","level": "medium","reactants_smiles": ["[CH](Br)(c1ccccc1)(CC)","P(OCC)(OCC)(OCC)"],"products_smiles": ["P(=O)(OCC)(OCC)[CH](c1ccccc1)(CC)"],"conditions": "","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](OCC)(OCC)(OCC)[CH](c1ccccc1)(CC).[Br-]","rationale": "The lone pair on phosphorus attacks the electrophilic carbon bearing bromine, favored by the polarizable P center and the good leaving group ability of bromide, forming a phosphonium salt intermediate."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "P(=O)(OCC)(OCC)[CH](c1ccccc1)(CC)","rationale": "Intramolecular rearrangement occurs as an alkyl group migrates from oxygen to phosphorus, driven by the thermodynamically favorable formation of the strong P=O bond and facilitated by bromide acting as a leaving group."}],"description": "In the Michaelis–Arbuzov reaction, trialkyl phosphite attacks an alkyl halide via nucleophilic substitution, forming a phosphonium salt. This intermediate undergoes rearrangement with halide displacement to yield the phosphonate ester, driven by strong P=O bond formation and good leaving group ability of halide."}
